US09212172B2
Preparation of Crystalline Bazedoxifene Acetate Form D
Crystalline bazedoxifene free base (5 g) is charged in methanol (100 mL) heated at reflux temperature to make a clear solution. The solution is filtered and cooled to 25-30° C. followed by addition of acetic acid (0.82 g). The reaction mixture is stirred for about 1 hour. In a separate flask, slurry of crystalline Form D of bazedoxifene acetate is prepared by providing seed of Form D (250 mg) in methanol (5 mL). The said seed slurry is added to the previous reaction mixture and further it is cooled to 10-15° C. in a period of 30 minutes followed by addition of isopropyl alcohol in a period of 2 hours. The reaction mixture is further cooled to 0-5° C. and maintained at same temperature for 30-45 minutes. The solid is collected by filtration and sequentially washed with isopropyl alcohol (5 mL) and methanol (5 mL), and dried under vacuum at about 90° C. to afford the title compound.

reactant | bazedoxifene | 5 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | Bazedoxifene Acetate | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O | InChI=1S/C30H34N2O3.C2H4O2/c1-22-28-20-26(34)12-15-29(28)32(30(22)24-8-10-25(33)11-9-24)21-23-6-13-27(14-7-23)35-19-18-31-16-4-2-3-5-17-31;1-2(3)4/h6-15,20,33-34H,2-5,16-19,21H2,1H3;1H3,(H,3,4)
